US04271294
(2,2-di-(2-morpholino-ethoxy)-1,2-diphenyl-ethanone)
With stirring, 35 g (0.1 mole) of benzil-di-(2-chloroethyl)ketal and 52 g (0.6 mole) of morpholine are kept for 6 hours at 110° C. After cooling, the product is taken up in ether. The ether layer is washed with water, dried over Na2SO4 and concentrated. The residual oil is dried in a high vacuum at 50°-60° C.

reactant | benzil-di-(2-chloroethyl)ketal | 0.1 mole, 35 g | ClCCOC(C1=CC=CC=C1)(C(=O)C1=CC=CC=C1)OCCCl | C18H18Cl2O3
reactant | morpholine | 0.6 mole, 52 g | N1CCOCC1 | C4H9NO
solvent | ether | CCOCC | C4H10O
product | 2,2-di-(2-morpholino-ethoxy)-1,2-diphenyl-ethanone | O1CCN(CC1)CCOC(C(=O)C1=CC=CC=C1)(C1=CC=CC=C1)OCCN1CCOCC1 | C26H34N2O5
